Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute Renal Failure, Alcohol Dependence with Acute Intoxication, 
Methamphetamine Dependence, Drug Induced Delerium
 
Major Surgical or Invasive Procedure:
CT Head ___

 
History of Present Illness:
___ year old Male who presents after being brought in by EMS with 
alcohol intoxication and probable drung induced paranoid 
delusions. By report the patient was noted by his neighbors to 
be acting in an intoxicated state with the paranoid delusions 
that the police were after him for killing his neighbor's baby. 
The EMS reported that the patient was also having auditory 
hallucinations, although these had apparently resolved by 
arrival in the ___ ED. The patient also has been using crystal 
methamphetamine, and while this is suspected as the cause of the 
delusional behavior, given the lack of psychotic diagnosis, a 
psychiatric evaluation was performed.

On arrival in the ___ ED initial vitals were 97.8, 116, 
142/75, 16, 99%RA. He was evaluated by psychiatry who placed him 
on a ___ hold. The ED performed a CT. Placed on a CIWA 
scale. 
 
Past Medical History:
Colitis as teen
Alcohol dependence
Left Arm Fracture
Rotator Cuff Tear
 
Social History:
___
Family History:
Mother: ___ Cancer
Father: Unknown
3 ___ with alcohol dependence
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
==========================
VS:  98.0 PO 116 / 69 97 20 100 RA 
Gen: well-nourished white M, pleasant and cooperative but with 
psychomotor agitation and generalized tremulousness.  
HEENT: NC/AT. No cervical LAD, neck supple. MMM, oropharynx 
clear with no erythema noted. no scleral icterus noted.   
CV: RRR, ? systolic murmur appreciated at RUSB, no rub or gallop 
noted 
Pulm: LCTAB, no crackles, rales or rhonchi  
Abd:  soft, mildly tender to palpation with guarding diffusely. 
No epigastric tenderness. no rebound tenderness, bowel sounds 
normoactive.
GU: deferred 
Ext:  WWP, no ___ edema noted
Skin: no ecchymoses or wounds noted on skin of arms, face or 
back grossly. Small cut with dried healing blood noted on R 
lower extremity. 
Neuro: PERRLA ~3 mm, EOMI, tongue midline and CNs II-XII intact, 
facial movements intact. Moving all extremities. Alert and 
oriented x3 ___, unsure of day; self, ___, 
able to recite days of week backward. No asterixis appreciated 
but tremulousness of outstretched hands. 
Psych: Psychomotor agitation. Alert and cooperative, slightly 
bizarre thought process but no SI/HI, AH, VH, with insight into 
previously delusions 

DISCHARGE PHYSICAL EXAM
========================
ROS:
 GEN: - fevers, - Chills, - Weight Loss
 EYES: - Photophobia, - Visual Changes
 HEENT: - Oral/Gum bleeding
 CARDIAC: - Chest Pain, - Palpitations, - Edema
 GI: - Nausea, - Vomiting, - Diarrhea, - Abdominal Pain, - 
Constipation, - Hematochezia
 PULM: - Dyspnea, - Cough, - Hemoptysis
 HEME: - Bleeding, - Lymphadenopathy
 GU: - Dysuria, - hematuria, - Incontinence
 SKIN: - Rash
 ENDO: - Heat/Cold Intolerance
 MSK: - Myalgia, - Arthralgia, - Back Pain
 NEURO: - Numbness, - Weakness, - Vertigo, - Headache

PHYSICAL EXAM:
VSS: 98.5, ___, 93, 18, 100%RA
 GEN: NAD
 Pain: ___
 HEENT: EOMI, MMM, - OP Lesions
 PUL: CTA B/L
 COR: RRR, S1/S2, - MRG
 ABD: Mild diffuse tenderness, + voluntary guarding, - rebound, 
ND, +BS, - CVAT
 EXT: - CCE
 NEURO: CAOx3, CN II-XII grossly normal, Motor ___ ___ 
Spread Flex/Ext
 PSCYH: No SI/HI, no auditory or visual hallucinations, normal 
affect, pleasant
 
Pertinent Results:
PERTINENT LABS
==================
___ 05:15AM BLOOD WBC-4.1 RBC-3.89* Hgb-10.9* Hct-33.7* 
MCV-87 MCH-28.0 MCHC-32.3 RDW-20.0* RDWSD-62.4* Plt Ct-85*
___ 11:00AM BLOOD WBC-7.3 RBC-4.81 Hgb-13.3* Hct-40.8 
MCV-85 MCH-27.7 MCHC-32.6 RDW-19.9* RDWSD-59.8* Plt ___
___ 11:00AM BLOOD Neuts-90.7* Lymphs-2.9* Monos-5.5 
Eos-0.0* Baso-0.5 Im ___ AbsNeut-6.60* AbsLymp-0.21* 
AbsMono-0.40 AbsEos-0.00* AbsBaso-0.04
___ 05:15AM BLOOD ___
___ 05:15AM BLOOD Glucose-93 UreaN-28* Creat-1.2# Na-139 
K-3.7 Cl-102 HCO3-26 AnGap-15
___ 11:00AM BLOOD Glucose-104* UreaN-33* Creat-2.6* Na-141 
K-4.2 Cl-95* HCO3-22 AnGap-28*
___ 05:15AM BLOOD ALT-29 AST-42* LD(LDH)-191 AlkPhos-63 
TotBili-0.6
___ 11:00AM BLOOD CK(CPK)-512*
___ 05:15AM BLOOD Albumin-4.0 Calcium-8.6 Phos-3.0 Mg-2.3
___ 11:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-POS* Barbitr-NEG Tricycl-NEG
___ 12:33AM BLOOD Lactate-1.0
___ 12:36PM BLOOD Na-142 K-4.1 Cl-98 calHCO3-23
___ 11:29PM URINE Hours-RANDOM
___ 11:29PM URINE bnzodzp-POS* barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-POS* oxycodn-NEG mthdone-NEG

PERTINENT IMAGING
==================
CT HEAD W/O CONTRAST Study Date of ___ 3:30 ___ 
IMPRESSION:
No acute intracranial abnormality.  No mass effect.  MRI is a 
more sensitive modality for detection of small lesions.
 
Brief Hospital Course:
Mr. ___ is a ___ YO M who presented for evaluation of alcohol 
intoxication and paranoid delusions, found to have ___ with Cr 
2.6. paranoid delusions were felt to be due to crystal meth use, 
and improved during hospitalization. He was seen by psych, who 
initially recommended ___. His paranoid delusions 
improved significantly during hospitalization and Cr increase 
resolved with IV fluid administration. Of note, he did have a 
new anemia and thrombocytopenia that was noted on admission; 
?history of colitis vs contribution from alcohol use and 
associated malnutrition. ___ was lifted on ___ and 
patient was discharged. He was counseled regarding cessation of 
alcohol and drugs.

1. Alcohol Dependence with Acute Intoxication, Alcohol 
Withdrawal: On arrival to floor tremulous with some psychomotor 
agitation but mentation clear, no asterixis. He was continued on 
___ protocol but did not require any diazepam. He was given 
Thiamine, Folate, and a multivitamin and was evaluated by 
Psychiatry team, who on the day of discharge believed he no 
longer met criteria for involuntary hospitalization. 

2. Probable Drug Induced Psychosis: in the setting of recent 
increased EtOH and substance abuse (crystal methamphetamine, 
Librium), patient currently questioning whether 
events/hallucinations actually happened. Serum tox positive for 
benzos. Pt reports that he has had similar episodes of 
"psychosis" where he had delusions when self-detoxing from 
alcohol in the past. Likely, this is due to ongoing crystal meth 
usage and EtOH withdrawal. UTox positive for benzos and 
amphetamines. Mentation and insight to psychotic symptoms 
improved on AM of discharge.  

3. Acute Renal Failure due to Probable Dehydration: Cr. 2.6 and 
CK 512 on admission, likely in the setting of decreased PO 
intake and extreme activity in past few days in the setting of 
psychosis. S/p 2L IVF in the ED. Now resolved Creatinine 1.2 on 
___ (no baseline Cr available) with IVF and PO intake. 
Orthostatics wnl on day of discharge. 

4. Metabolic Anion Gap Acidosis
- Resolved with IV fluids

5. Normocytic Anemia: possibly chronic but no baseline 
available. Worsened slightly to ~10 on ___ potentially 
dilutional effect. ?contribution from reported colitis, possibly 
multifactorial in setting of alcohol abuse and potential 
malnutrition.

6.Thrombocytopenia: potentially related to long term heavy 
alcohol use, nutrient deficiency. No evidence of active bleed at 
this time, will recommend further evaluation of patient's 
bleeding risk and workup as outpatient. 

TRANSITIONAL ISSUES:
===================
- requires f/u of Anemia, thrombocytopenia
- patient reportedly s/p stay at substance abuse rehab, 
substance abuse issues in need of close follow up
# CODE: FULL CODE 
# CONTACT: 
___ 
___: mother 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Daily Multi-Vitamin]  1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  Thiamine 100 mg PO DAILY Duration: 5 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: drug-induced psychosis

Secondary: alcohol withdrawal, thrombocytopenia, anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You came into the hospital because you had been drinking alcohol 
and using substances, and we were worried that you were having 
paranoid thoughts that we think were caused by drug use.
After receiving fluids and medication in the hospital and being 
evaluated by our Psychiatry team your thoughts seemed to 
improve. We also noted during your hospital stay that you had 
low blood counts and low platelet counts. You should follow up 
with a primary ___ doctor regarding this. 
We encourage you take the vitamins that we have prescribed for 
you.

We would like you to make an appointment with a new Primary ___ 
Doctor at ___ to follow up after your 
discharge.

It was a pleasure treating you at ___ and we wish you all the 
best.
Sincerely, 
Your ___ Medicine Team
 
Followup Instructions:
___